US04438128
1-(4-Propoxyphenoxy)-3-[2-(1,3,5-trimethylpyrimidine-2,4-dion-6-ylamino)-ethylamino]-propan-2-ol
This compound is obtained in a manner analogous to that described in Example 5 by reacting 4-propoxyphenyl glycidyl ether with 4-(2-aminoethylamino)-1,3,5-trimethylpyrimidine-2,6(1H,3H)-dione. It is obtained in a yield of 32% of theory in the form of colorless crystals which, after recrystallization from methanol, melt at 121°-123° C.

reactant | 4-propoxyphenyl glycidyl ether | C(C1CO1)OC1=CC=C(C=C1)OCCC | C12H16O3
reactant | 4-(2-aminoethylamino)-1,3,5-trimethylpyrimidine-2,6(1H,3H)-dione | NCCNC=1N(C(N(C(C1C)=O)C)=O)C | C9H16N4O2
product | 1-(4-Propoxyphenoxy)-3-[2-(1,3,5-trimethylpyrimidine-2,4-dion-6-ylamino)-ethylamino]-propan-2-ol | yield of 32% | C(CC)OC1=CC=C(OCC(CNCCNC2=C(C(N(C(N2C)=O)C)=O)C)O)C=C1 | C21H32N4O5
